US04182776
6-(Phenoxy)-1-hexanol
To a solution of 10.3 g of phenol in 25 ml of hexamethylphosphoramide is added 4.2 g of 57% sodium hydride in oil. After hydrogen evolution ceases, 13.6 g of 6-chlorohexan-1-ol in 25 ml of hexamethylphosphoramide is added and the mixture heated at 110° C. for 16 hours. The solution is cooled, diluted with water and extracted with ether. The ether extracts are washed with sodium hydroxide solution, dried (magnesium sulfate) and the solvent removed under vacuum to give white crystals, mp 69°-74° C.

reactant | phenol | 10.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 6-chlorohexan-1-ol | 13.6 g | ClCCCCCCO | C6H13ClO
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | 6-(Phenoxy)-1-hexanol | O(C1=CC=CC=C1)CCCCCCO | C12H18O2
